US05606078
a) trans- 1,8-bis [4(S)-benzyl-2-oxo-oxazolidin-3-yl]-2(S),7(S)-diisopropyl-oct-4-ene-1,8-dione
With stirring at -75° C., 48 ml of a 1.0M solution of lithium hexamethyldisilazide in tetrahydrofuran are added dropwise in the course of 1 hour to a solution of 11.5 g of 4(S)-benzyl-3-isovaleroyl-oxazolidin-2-one in 32 ml of tetrahydrofuran. The reaction mixture is stirred further for 2 hours at -75° C. and for 20 minutes at -20° C., then 10 ml of 1,3-dimethyl-3,4,5,6-tetrahydro- -2-(1H)-pyrimidone (DMPU) and, in the course of 45 minutes, a solution of 4.28 g of 1,4-dibromo-2-butene in 10 ml of tetrahydrofuran are added thereto. The reaction mixture is stirred further for 15 hours at -20° C., and then in the course of 1 hour brought to 0° C. At -20° C., 10 ml of saturated ammonium chloride solution are then added thereto and after 15 minutes the reaction mixture is brought to room temperature. The reaction mixture is then partitioned between dichloromethane and saturated sodium chloride solution/water (1:1). The organic phases are combined, dried over sodium sulfate and concentrated by evaporation and the residue is purified by means of FC (hexane/ethyl acetate 4:1) to yield the title compound: Rf (hexane/ethyl acetate 4:1)=0.30; m.p.=110°-111° C. (crystallised from ethyl acetate/hexane).

reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 4(S)-benzyl-3-isovaleroyl-oxazolidin-2-one | 11.5 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(CC(C)C)=O | C15H19NO3
reactant | 1,4-dibromo-2-butene | 4.28 g | BrCC=CCBr | C4H6Br2
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 32 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro- -2-(1H)-pyrimidone | 10 ml | CN1C(N(CCC1)C)=O | C6H12N2O
product | trans- 1,8-bis [4(S)-benzyl-2-oxo-oxazolidin-3-yl]-2(S),7(S)-diisopropyl-oct-4-ene-1,8-dione | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@@H](C\C=C\C[C@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)C(C)C)C(C)C)=O | C34H42N2O6
